US07122666B2
8(vi)′ (8aS)-2-Methyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
In a similar manner to that described in Preparative Example 1(iii)′ above, a reaction was performed, using (2S)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methylpyrrolidine [obtained as described in Preparative Example 8(v)′ above] instead of (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine, to give the title compound as a colorless oil (yield: 34%).

reactant | (2S)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)C)CC(CC(=O)OCC)=O | C19H25NO5
reactant | (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)CC(CC(=O)OCC)=O | C19H25NO6
product | (8aS)-2-Methyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | yield: 34% | CC1C[C@H]2CC(CCN2C1)=O | C9H15NO
